US07842685B2
To a slurry of methyl 3-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)propanoate (0.114 g, 0.26 mmol) in 3 mL THF/1 mL water was added sodium hydroxide (0.53 mL, 0.53 mmol). The reaction mixture became light yellow and was still heterogeneous. After stirring overnight, the slightly milky solution was treated with a stream of nitrogen to remove the THF, then 0.53 mL 1N HCl to neutralize base, at which point a white precipitate formed, and diluted with 3 mL 3M pH 4.8 sodium acetate buffer. The reaction mixture was filtered and the solid rinsed with water and MeOH. The solid was collected and dried in vacuo to give 3-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)propanoic acid as a white solid. MS (ESI) m/z; calculated: 418.1; Observed: 419.1 (M++1).

reactant | methyl 3-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)propanoate | 0.26 mmol, 0.114 g | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)CCC(=O)OC | C25H21FN2O2S
reactant | sodium hydroxide | 0.53 mmol, 0.53 mL | [OH-].[Na+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | sodium acetate | 3M, 3 mL, pH 4.8 | C(C)(=O)[O-].[Na+]
product | 3-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)propanoic acid | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)CCC(=O)O | C24H19FN2O2S
